US08530413B2
1-Acetyl-5-trifluoromethyl-1,3-dihydroindol-2-one
2.0 g of 5-trifluoromethyloxoindole were dissolved in 25 ml of xylene, 2.41 ml of acetic anhydride were added and the mixture was heated to boiling under reflux for 5 hours. The reaction solution was cooled to room temperature and diluted with 150 ml of ethyl acetate, and washed with 80 ml each of water, saturated sodium bicarbonate solution and saturated NaCl solution. The organic phase was dried over MgSO4 and concentrated under reduced pressure. The residue was purified on silica gel with the eluent n-heptane=>n-heptane/ethyl acetate=3:1. This gave 1.74 g of 1-acetyl-5-trifluoromethyl-1,3-dihydroindol-2-one as a colorless solid.

reactant | 5-trifluoromethyloxoindole | 2.0 g | FC(C1=CC2=CC(N=C2C=C1)=O)(F)F | C9H4F3NO
reactant | acetic anhydride | 2.41 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | xylene | 25 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 1-Acetyl-5-trifluoromethyl-1,3-dihydroindol-2-one | C(C)(=O)N1C(CC2=CC(=CC=C12)C(F)(F)F)=O | C11H8F3NO2
